US06222051B1
The reaction of alpha-tocopherol with 4-aminobenzoic acid chloride was carried out in the same manner with Example I, except that 10 mol % of 4-(dimethylamino)pyridine was added together with pyridine. This reaction was confirmed to proceed in a similar pattern to that of Example I as measured by thin layer chromatography. The remaining processes of Example I were repeated to produce alpha-tocopherol 4-aminobenzoate (0.61 g, yield 68%).

reactant | alpha-tocopherol | CC1=C(C2=C(C(=C1O)C)CC[C@@](O2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C | C29H50O2
reactant | 4-aminobenzoic acid chloride | NC1=CC=C(C(=O)Cl)C=C1 | C7H6ClNO
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | alpha-tocopherol 4-aminobenzoate | 0.61 g, yield 68% | CC1=C(C2=C(C(=C1O)C)CC[C@@](O2)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)C.NC1=CC=C(C(=O)[O-])C=C1 | InChI=1S/C29H50O2.C7H7NO2/c1-20(2)12-9-13-21(3)14-10-15-22(4)16-11-18-29(8)19-17-26-25(7)27(30)23(5)24(6)28(26)31-29;8-6-3-1-5(2-4-6)7(9)10/h20-22,30H,9-19H2,1-8H3;1-4H,8H2,(H,9,10)/p-1/t21-,22-,29-;/m1./s1
